US07666848B2
b) N-Benzyl-3-hydroxy-thiophene-2-carboxamide
1.44 g of 3-hydroxy-thiophene-2-carboxylic acid were dissolved in 100 ml of dichloromethane, and 2.18 ml of benzylamine and 5.00 ml of a 50% strength 1-propanephosphoric anhydride solution in acetic acid were added. The reaction mixture was stirred at 22° C. for 2 h and, after addition of 100 ml of saturated sodium bicarbonate solution, extracted twice with 100 ml of dichloromethane each time. The combined organic phases were washed with 100 ml of saturated sodium chloride solution, dried over magnesium sulfate and concentrated. The product with the molecular weight of 233.3 (C12H11NO2S), MS (ESI): 234 (M+h+) was obtained.

reactant | 3-hydroxy-thiophene-2-carboxylic acid | 1.44 g | OC1=C(SC=C1)C(=O)O | C5H4O3S
reactant | benzylamine | 2.18 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-Benzyl-3-hydroxy-thiophene-2-carboxamide | C(C1=CC=CC=C1)NC(=O)C=1SC=CC1O | C12H11NO2S
